US04859699
To a mixture of freshly ground sodium cyanide (0.75 g, 15.0 mmol) in dimethylformamide (DMF) is added, over 30 min., 4-chlorobenzaldehyde (21.0 g, 150.0 mmol) in DMF. 30 Minutes after the addition is completed, acrylonitrile (5.96 g, 7.4 ml, 112.5 mmol) is added over a period of 1 hour. The mixture is stirred at RT for 3 hours, after which acetic acid (0.99 g, 0.94 ml, 16.5 mmol) is added. After 5 min., the reaction mixture is poured into water and extracted with chloroform. The combined chloroform layers are washed with water and with brine, dried and stripped of solvent. The residue is recrystallized and filtered to give 4-(4-chlorophenyl)-4-oxobutyronitrile.

reactant | sodium cyanide | 15.0 mmol, 0.75 g | [C-]#N.[Na+]
reactant | 4-chlorobenzaldehyde | 150.0 mmol, 21.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | acrylonitrile | 112.5 mmol, 7.4 ml, 5.96 g | C(C=C)#N | C3H3N
reactant | acetic acid | 16.5 mmol, 0.94 ml, 0.99 g | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-4-oxobutyronitrile | ClC1=CC=C(C=C1)C(CCC#N)=O | C10H8ClNO
